US06498165B1
Step E: (S)-1-(3-Tert-butyloxycarbonylphenyl)ethylamine
(S)-1-(3-Tert-butyloxycarbonylphenyl)-1-azidoethane (3.10 mmol) was dissolved in benzene (8 mL). Water (1 mL) was added followed by triphenylphosphine (6.18 mmol), and the resultant mixture heated to 80° C. for 2 h. The reaction was poured into 1N HCl solution, this solution then washed twice with diethyl ether. These ether washes were discarded and the aqueous phase made strongly basic (pH˜14) by the addition of 5N NaOH solution. This aqueous phase was then extracted 3× with diethyl ether. These ether extracts were combined, washed with brine, dried (MgSO4) and concentrated under reduced pressure to yield 568 mg of an oil which was used without further purification. 1H NMR (500 MHz, CDCl3): δ7.97 (m, 1H); 7.88 (m, 1H); 7.55 (d, J=7.5 Hz, 1H); 7.39 (t, J=7.8 Hz, 1H); 4.19 (q, J=6.6 Hz, 1H); 1.62 (s, 9H); 1.42 (d, J=6.7 Hz, 3H).

reactant | (S)-1-(3-Tert-butyloxycarbonylphenyl)-1-azidoethane | 3.10 mmol | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)[C@H](C)N=[N+]=[N-] | C13H17N3O2
reactant | Water | 1 mL | O | H2O
reactant | triphenylphosphine | 6.18 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | 1N | Cl | ClH
solvent | benzene | 8 mL | C1=CC=CC=C1 | C6H6
product | (S)-1-(3-Tert-butyloxycarbonylphenyl)ethylamine | 568 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)[C@H](C)N | C13H19NO2
